* Extracted by KLayout with GF180MCU LVS runset on : 06/08/2026 22:48

.SUBCKT comparator_2stage VDD CKL CK VIN1 VIN2 VOUT1 VOUT2 VSS
X$1 VDD VIN1 VIN2 CK \$3 \$2 VSS preamp_dyn
X$2 CKL \$3 \$2 VOUT2 VOUT1 VDD VSS strongarm_2
.ENDS comparator_2stage

.SUBCKT strongarm_2 CK VIN1 VIN2 VOUT2 VOUT1 VDD VSS
XM$1 VDD CK \$4 VDD pfet_03v3 L=0.28U W=5U    
XM$2 VDD CK \$5 VDD pfet_03v3 L=0.28U W=5U    
XM$3 VDD CK VOUT2 VDD pfet_03v3 L=0.28U W=5U    
XM$4 VDD CK VOUT1 VDD pfet_03v3 L=0.28U W=5U    
XM$5 VDD VOUT1 VOUT2 VDD pfet_03v3 L=0.28U W=0.42U  
+  
XM$6 VDD VOUT2 VOUT1 VDD pfet_03v3 L=0.28U W=0.42U  
+  
XM$7 VSS CK \$3 VSS nfet_03v3 L=0.28U W=2U    
XM$8 \$4 VOUT2 VOUT1 VSS nfet_03v3 L=0.28U W=2U   
+ 
XM$9 \$5 VOUT1 VOUT2 VSS nfet_03v3 L=0.28U W=2U   
+ 
XM$10 \$3 VIN2 \$5 VSS nfet_03v3 L=1U W=8U    
XM$14 \$3 VIN1 \$4 VSS nfet_03v3 L=1U W=8U    
.ENDS strongarm_2

.SUBCKT preamp_dyn VDD VIN1 VIN2 CK DIP1 DIP2 VSS
XM$1 DIP1 VIN1 \$8 VSS nfet_03v3 L=1U W=64U   
+ 
XM$17 DIP2 VIN2 \$8 VSS nfet_03v3 L=1U W=64U   
+ 
XM$33 VDD CK DIP2 VDD pfet_03v3 L=0.3U W=3U    
XM$34 VDD CK DIP1 VDD pfet_03v3 L=0.3U W=3U    
XM$35 VSS CK \$8 VSS nfet_03v3 L=1U W=1U    
.ENDS preamp_dyn
