* polarity check case A: VIN1=1.64 vs VIN2=1.65 -> vout1 must fall
.param sw_stat_global=0 sw_stat_mismatch=0
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
* Extracted by KLayout with GF180MCU LVS runset on : 06/08/2026 22:48

.SUBCKT comparator_2stage VDD CKL CK VIN1 VIN2 VOUT1 VOUT2 VSS
X$1 VDD VIN1 VIN2 CK \$3 \$2 VSS preamp_dyn
X$2 CKL \$3 \$2 VOUT2 VOUT1 VDD VSS strongarm_2
.ENDS comparator_2stage

.SUBCKT strongarm_2 CK VIN1 VIN2 VOUT2 VOUT1 VDD VSS
XM$1 VDD CK \$4 VDD pfet_03v3 L=0.28U W=5U    
XM$2 VDD CK \$5 VDD pfet_03v3 L=0.28U W=5U    
XM$3 VDD CK VOUT2 VDD pfet_03v3 L=0.28U W=5U    
XM$4 VDD CK VOUT1 VDD pfet_03v3 L=0.28U W=5U    
XM$5 VDD VOUT1 VOUT2 VDD pfet_03v3 L=0.28U W=0.42U  
+  
XM$6 VDD VOUT2 VOUT1 VDD pfet_03v3 L=0.28U W=0.42U  
+  
XM$7 VSS CK \$3 VSS nfet_03v3 L=0.28U W=2U    
XM$8 \$4 VOUT2 VOUT1 VSS nfet_03v3 L=0.28U W=2U   
+ 
XM$9 \$5 VOUT1 VOUT2 VSS nfet_03v3 L=0.28U W=2U   
+ 
XM$10 \$3 VIN2 \$5 VSS nfet_03v3 L=1U W=8U    
XM$14 \$3 VIN1 \$4 VSS nfet_03v3 L=1U W=8U    
.ENDS strongarm_2

.SUBCKT preamp_dyn VDD VIN1 VIN2 CK DIP1 DIP2 VSS
XM$1 DIP1 VIN1 \$8 VSS nfet_03v3 L=1U W=64U   
+ 
XM$17 DIP2 VIN2 \$8 VSS nfet_03v3 L=1U W=64U   
+ 
XM$33 VDD CK DIP2 VDD pfet_03v3 L=0.3U W=3U    
XM$34 VDD CK DIP1 VDD pfet_03v3 L=0.3U W=3U    
XM$35 VSS CK \$8 VSS nfet_03v3 L=1U W=1U    
.ENDS preamp_dyn
Xdut VDD CKL CK VIN1 VIN2 VOUT1 VOUT2 VSS comparator_2stage
Vvdd  VDD  0 3.3
Vvss  VSS  0 0
Vvin1 VIN1 0 1.64
Vvin2 VIN2 0 1.65
Vck   CK   0 PULSE(0 3.3 2n   100p 100p 8n 20n)
Vckl  CKL  0 PULSE(0 3.3 3.1n 100p 100p 5n 20n)
.control
save v(vout1) v(vout2)
tran 0.01n 20n
meas tran v1late FIND v(vout1) at=7.8n
meas tran v2late FIND v(vout2) at=7.8n
echo RESULT caseA expect_vout1_low v1late=$&v1late v2late=$&v2late
.endc
.end
